US08957080B2
Synthesis of (R)-2-(3-(4-amino-3-(4-(3-fluorophenoxy)phenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl)piperidine-1-carbonyl)-3-cyclopropylacrylonitrile
Into a 50 mL round-bottom flask, was placed a solution of 3-[(3R)-3-[4-amino-3-[4-(3-fluorophenoxy)phenyl]-1H-pyrazolo[3,4-d]pyrimidin-1-yl]piperidin-1-yl]-3-oxopropanenitrile (120 mg, 0.25 mmol, 1.00 equiv) in methanol (20 mL), cyclopropanecarbaldehyde (54 mg, 0.77 mmol, 3.00 equiv), piperidine (11 mg, 0.13 mmol, 0.50 equiv), and dichloromethane (5 mL). The resulting solution was stirred for 12 h at room temperature and then concentrated under vacuum. The residue was loaded onto a silica gel column and eluted with dichloromethane/methanol (100:1) to give 36 mg (27%) of the title compounds as a white solid. LC-MS: (ES, m/z): 524 [M+H]+. H-NMR: (300 MHz, CDCl3, ppm) 8.396 (1H, s), 7.721˜7.674 (2H, m), 7.393˜7.316 (1H, m), 7.237˜7.191 (2H, m), 6.923˜6.786 (3H, m), 6.607˜6.570 (1H, d, J=11.1), 5.795 (2H, s), 5.018˜4.919 (1H, m), 4.8˜3.1 (4H, m), 2.465˜2.269 (5H, m), 1.274 (2H, m), 0.887 (2H, m).

reactant | 3-[(3R)-3-[4-amino-3-[4-(3-fluorophenoxy)phenyl]-1H-pyrazolo[3,4-d]pyrimidin-1-yl]piperidin-1-yl]-3-oxopropanenitrile | 0.25 mmol, 120 mg, 1.00 equiv | NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)OC2=CC(=CC=C2)F)[C@H]2CN(CCC2)C(CC#N)=O | C25H22FN7O2
reactant | cyclopropanecarbaldehyde | 0.77 mmol, 54 mg, 3.00 equiv | C1(CC1)C=O | C4H6O
reactant | piperidine | 0.13 mmol, 11 mg, 0.50 equiv | N1CCCCC1 | C5H11N
reactant | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | methanol | 20 mL | CO | CH4O
product | (R)-2-(3-(4-amino-3-(4-(3-fluorophenoxy)phenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl)piperidine-1-carbonyl)-3-cyclopropylacrylonitrile | 36 mg, 27% | NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)OC2=CC(=CC=C2)F)[C@H]2CN(CCC2)C(=O)C(C#N)=CC2CC2 | C29H26FN7O2
